US06924400B2
(l) 1-{5′-[2-(3,4-Bis(hydroxymethyl)phenyl)ethyl]-2′-methyl-2-propylbiphenyl-4-yl}propan-1-one
640 mg (1.4 mmol) of (4-{2-[4′-(2-ethyl[1,3]dioxolan-2-yl)-6-methyl-2′-propylbiphenyl-3-yl]ethyl}-2-hydroxymethylphenyl)methanol are placed in 15 ml of acetone and 15 ml of water in a round-bottomed flask. A spatula-tip of p-toluenesulfonic acid is added and the solution is refluxed for 2 hours 30 minutes. At room temperature, it is poured into saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and then evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (30/70). 300 mg (50%) of the expected product are obtained in the form of a colorless oil.

reactant | (4-{2-[4′-(2-ethyl[1,3]dioxolan-2-yl)-6-methyl-2′-propylbiphenyl-3-yl]ethyl}-2-hydroxymethylphenyl)methanol | 1.4 mmol, 640 mg | C(C)C1(OCCO1)C1=CC(=C(C=C1)C1=CC(=CC=C1C)CCC1=CC(=C(C=C1)CO)CO)CCC | C31H38O4
reactant | water | 15 ml | O | H2O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 1-{5′-[2-(3,4-Bis(hydroxymethyl)phenyl)ethyl]-2′-methyl-2-propylbiphenyl-4-yl}propan-1-one | 300 mg, 50% | OCC=1C=C(C=CC1CO)CCC=1C=CC(=C(C1)C1=C(C=C(C=C1)C(CC)=O)CCC)C | C29H34O3
